US07754742B2
4-Aminomethyl-3-methoxy-benzoic acid methyl ester
Hydrogenate a mixture of 4-azidomethyl-3-methoxy-benzoic acid methyl ester (4.1 g, 18.5 mmol) and palladium on carbon (4.9 g, 4.63 mmol) in ethanol (200 mL) under a hydrogen atmosphere at 345 KPa for 24 hrs at room temperature. Filter the reaction mixture through diatomaceous earth and concentrate the filtrate to provide the crude title compound (2.9 g, 14.9 mmol). MS (m/z): 196 (M+1). Use it as is in next step.

reactant | 4-azidomethyl-3-methoxy-benzoic acid methyl ester | 18.5 mmol, 4.1 g | COC(C1=CC(=C(C=C1)CN=[N+]=[N-])OC)=O | C10H11N3O3
catalyst | palladium on carbon | 4.63 mmol, 4.9 g | [Pd] | Pd
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 4-Aminomethyl-3-methoxy-benzoic acid methyl ester | 14.9 mmol, 2.9 g | COC(C1=CC(=C(C=C1)CN)OC)=O | C10H13NO3
